US05013814
A mixture of 98.8 g (0.411 mol) of sodium sulfide, 5.0 g of tetrabutylammonium hydrogen sulfate and 110 ml of water are stirred in a reaction vessel equipped with a stirrer, thermometer and heatable dropping funnel, until a solution is obtained. 107.2 g of melted 2,6-dichlorobenzyl chloride are added with vigorous stirring over a period of 25 minutes at such a rate that the inside temperature does not exceed 55° C. The reaction mixture is worked up as in Example 9(a) to give 77.6 g (80% of theory) of bis(2,6-dichlorobenzyl) sulfide in the form of white crystals of melting point 128°-130° C.

reactant | sodium sulfide | 0.411 mol, 98.8 g | [S-2].[Na+].[Na+]
reactant | 2,6-dichlorobenzyl chloride | 107.2 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
catalyst | tetrabutylammonium hydrogen sulfate | 5.0 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 110 ml | O | H2O
product | bis(2,6-dichlorobenzyl) sulfide | 77.6 g, 80% | ClC1=C(CSCC2=C(C=CC=C2Cl)Cl)C(=CC=C1)Cl | C14H10Cl4S
